US05723450
4-(4-Benzylidenecyclohexylamino)-3-methoxy-2-methylpyridine
7.8 g of benzyltriphenylphosphonium bromide in 50 ml of ethylene glycol dimethyl ether are deprotonated at 10° to 20° C. using 11 ml of 1.6 molar butyllithium solution in hexane. After 30 minutes 1.3 g of 4-(4-oxocyclohexylamino)-3-methoxy-2-methylpyridine are added dropwise in 10 ml of DMSO. After 5 hours at 40° to 50° C. the mixture is poured into water and extracted with methylene chloride. The product is purified by column chromatography on silica gel (eluent: ethanol). 0.6=41%; m.p.: 120° C.

reactant | benzyltriphenylphosphonium bromide | 7.8 g | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | 1.6 molar, 11 ml | C(CCC)[Li]
reactant | 4-(4-oxocyclohexylamino)-3-methoxy-2-methylpyridine | 1.3 g | O=C1CCC(CC1)NC1=C(C(=NC=C1)C)OC | C13H18N2O2
reactant | water | O | H2O
solvent | ethylene glycol dimethyl ether | 50 ml | COCCOC | C4H10O2
solvent | hexane | CCCCCC | C6H14
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 4-(4-Benzylidenecyclohexylamino)-3-methoxy-2-methylpyridine | C(C1=CC=CC=C1)=C1CCC(CC1)NC1=C(C(=NC=C1)C)OC | C20H24N2O
